US20010027196A1
To a stirred suspension of 600 mg (2.59 mmol) 6-amino-4-furan-2-yl-2-methylsulfanyl-nicotinonitrile in 10 ml dichloromethane was added 1,36 g (5.19 mmol) 3-phenyl-2-(phenylsulfonyl)oxaziridine and stirring continued for 16 hours at room temperature. The resulting crystals were collected by filtration and washed with dichloromethane to afford 500 mg (78%) 6-amino-4-furan-2-yl-2-methanesulfinyl-nicotinonitrile as a white crystalline solid. EI-MS m/e (%): 247 (M+, 26), 230 (12), 201 (100), 184 (24), 172 (27), 156 (28), 129 (24), 102 (13).

reactant | 6-amino-4-furan-2-yl-2-methylsulfanyl-nicotinonitrile | 2.59 mmol, 600 mg | NC1=NC(=C(C#N)C(=C1)C=1OC=CC1)SC | C11H9N3OS
reactant | 3-phenyl-2-(phenylsulfonyl)oxaziridine | 5.19 mmol, 1,36 g | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-amino-4-furan-2-yl-2-methanesulfinyl-nicotinonitrile | 500 mg, 78% | NC1=NC(=C(C#N)C(=C1)C=1OC=CC1)S(=O)C | C11H9N3O2S
